US06057317
Step a: 6-Acetyl-2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine
1.6 mmol (0.1 ml) of acetyl chloride and 4 mmol (545 mg) of aluminum chloride are added to a solution of 1.6 mmol (355 mg) of 2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine (described in J. Heterocyclic Chem., 1985, 22, 177) in 18 ml of dichloromethane at -10° C. The reaction mixture is stirred at room temperature for 1 hour before being hydrolysed by a cooled aqueous solution of 2 M hydrochloric acid. The mixture is extracted with dichloromethane and the organic phase is washed with a saturated solution of NaHCO3, dried over magnesium sulphate, concentrated and purified by chromatography on silica gel using a petroleum ether/ethyl acetate mixture (7/3) as eluant to yield the expected product.

reactant | acetyl chloride | 1.6 mmol, 0.1 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 4 mmol, 545 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine | 1.6 mmol, 355 mg | C(C)OC(=O)C1OC2=C(N(C1)C)C=CC=C2 | C12H15NO3
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | 6-Acetyl-2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine | C(C)(=O)C=1C=CC2=C(N(CC(O2)C(=O)OCC)C)C1 | C14H17NO4
